US05990151
To a suspension of 60% sodium hydride (oily)(0.847 mg) in 25 ml of 1,2-dimethoxyethane, 4.20 ml of triethyl phosphonoacetate was added dropwise over 10 minutes and stirred at room temperature for 1 hour. To this reaction solution, 2.65 ml of pentyl bromide was added, and then refluxed by heating for 3 hours under stirring. Thereafter, the reaction solution was cooled to room temperature and 0.857 mg of 60% sodium hydride (oily) was added thereto. After stirring at room temperature for 30 minutes, 5.15 g of 4-methoxy-3-(2-phenylethoxy)-benzaldehyde was added and refluxed by heating for 2 hours under stirring. Then, the reaction solution was cooled to room temperature, and ethyl acetate and water was added thereto to separate the solution into layers. The organic layer separated was washed with water, an aqueous solution of saturated sodium hydrogencarbonate and a saturated aqueous solution of NaCl in consecutive order and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=30:1) to thereby obtain 5.39 g of ethyl 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-pentylacrylate as a mixture of E- and Z-isomers (E-isomer:Z-isomer=7.0:1).

reactant | sodium hydride | 0.847 mg | [H-].[Na+]
reactant | pentyl bromide | 2.65 ml | C(CCCC)Br | C5H11Br
reactant | sodium hydride | 0.857 mg | [H-].[Na+]
reactant | 4-methoxy-3-(2-phenylethoxy)-benzaldehyde | 5.15 g | COC1=C(C=C(C=O)C=C1)OCCC1=CC=CC=C1 | C16H16O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | ethyl 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-pentylacrylate | 5.39 g | COC1=C(C=C(C=C1)C=C(C(=O)OCC)CCCCC)OCCC1=CC=CC=C1 | C25H32O4
